US07544835B2
Dimethyl 2-(3-{[(anilinocarbonyl)oxy]methyl}-4-methoxybenzyl)malonate
Using dimethyl 2-[3-(hydroxymethyl)-4-methoxybenzyl]malonate and phenylisocyanate, the title compound was obtained in the same manner as described in Example 192b).

reactant | dimethyl 2-[3-(hydroxymethyl)-4-methoxybenzyl]malonate | OCC=1C=C(CC(C(=O)OC)C(=O)OC)C=CC1OC | C14H18O6
reactant | phenylisocyanate | C1(=CC=CC=C1)N=C=O | C7H5NO
product | Dimethyl 2-(3-{[(anilinocarbonyl)oxy]methyl}-4-methoxybenzyl)malonate | N(C1=CC=CC=C1)C(=O)OCC=1C=C(CC(C(=O)OC)C(=O)OC)C=CC1OC | C21H23NO7
